US07148249B2
1-acetyl-3-[1-chloro-1-(4-acetylamino-3-nitrophenyl)methylene]-2-indolinone
A suspension of 11.4 g of 1-acetyl-3-(1-hydroxy-1-(4-acetylamino-3-nitrophenyl)-methylene)-2-indolinone and 9.37 g phosphorus pentachloride in 200 ml dioxane is stirred for 4 hours at 100° C. After the addition of another 2.0 g of phosphorus pentachloride the mixture is stirred for a further 3 hours at 10° C. Then the solvent is distilled off, the residue is stirred with 100 ml of ethyl acetate, suction filtered, washed with ethyl acetate and dried at 60° C.

reactant | 1-acetyl-3-(1-hydroxy-1-(4-acetylamino-3-nitrophenyl)-methylene)-2-indolinone | 11.4 g | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])O)=O | C19H15N3O6
reactant | phosphorus pentachloride | 9.37 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus pentachloride | 2.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1-acetyl-3-[1-chloro-1-(4-acetylamino-3-nitrophenyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])Cl)=O | C19H14ClN3O5
